US07348337B2
Preparation of 1-[4-(1-Phenyl-1-ethynyl-methylene)-piperidin-1-yl]-2-(4,7-dimethoxy-6-azaindol-3-yl)-ethane-1,2-dione:
To a solution of 1-[4-(1-phenyl-1-(2-trimethylsilylethyn-1-yl)-methylene)-piperidin-1-yl]-2-(4,7-dimethoxy-6-azaindol-3-yl)-ethane-1,2-dione (0.035 g, 0.0699 mmol) in MeOH (1 mL) was added K2CO3 (0.010 g, 0.0724 mmol) and the mixture was allowed to stir at room temperature for 6 h. The mixture was then evaporated and the residue was purified by preparative HPLC to give the title compound as a colorless solid (0.027.g, 91%).

reactant | 1-[4-(1-phenyl-1-(2-trimethylsilylethyn-1-yl)-methylene)-piperidin-1-yl]-2-(4,7-dimethoxy-6-azaindol-3-yl)-ethane-1,2-dione | 0.0699 mmol, 0.035 g | C1(=CC=CC=C1)C(C#C[Si](C)(C)C)=C1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)OC)=O | C28H31N3O4Si
reactant | K2CO3 | 0.0724 mmol, 0.010 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 1 mL | CO | CH4O
product | 1-[4-(1-Phenyl-1-ethynyl-methylene)-piperidin-1-yl]-2-(4,7-dimethoxy-6-azaindol-3-yl)-ethane-1,2-dione | 91% | C1(=CC=CC=C1)C(C#C)=C1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)OC)=O | C25H23N3O4
